US04966902
(1.2) 2-Chloro-5-chloromethyl-pyridine
85 ml of thionyl chloride are added cautiously to 14.4 g (0.1 mol) of 6-chloro-pyridine-3-methanol. 8.1 g (0.1 mol) of pyridine are then added dropwise and the mixture is heated under reflux until gas evolution is complete. Excess thionyl chloride is removed in vacuo and the residue is poured onto ice. The precipitate is filtered off with suction and dried. Yield 10.6 g (65.5% of theory), m.p.: 38°-40° C. The crude product can be used further without purification.

reactant | thionyl chloride | 85 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-chloro-pyridine-3-methanol | 0.1 mol, 14.4 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | pyridine | 0.1 mol, 8.1 g | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-5-chloromethyl-pyridine | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
